US06093731
A solution of N-[(4-chloro-1-guanidino-7-isoquinolinyl)carbonyl]-β-alanine t-butyl ester (145 mg, 0.37 mmol) in CF3CO2H (1.5 mL) was stirred at 0° C. for 30 min, and then at room temperature for 1 h. PhMe (15 mL) was added, the mixture evaporated in vacuo, and the residue triturated with EtOAc and Et2O to give N-[(4-Chloro-1-guanidino-7-isoquinolinyl)carbonyl]-β-alanine (117 mg, 0.26 mmol) as a white solid.

reactant | N-[(4-chloro-1-guanidino-7-isoquinolinyl)carbonyl]-β-alanine t-butyl ester | 0.37 mmol, 145 mg | C(C)(C)(C)OC(CCNC(=O)C1=CC=C2C(=CN=C(C2=C1)NC(=N)N)Cl)=O | C18H22ClN5O3
reactant | PhMe | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | CF3CO2H | 1.5 mL | C(F)(F)(F)C(=O)O | C2HF3O2
product | N-[(4-Chloro-1-guanidino-7-isoquinolinyl)carbonyl]-β-alanine | 0.26 mmol, 117 mg | ClC1=CN=C(C2=CC(=CC=C12)C(=O)NCCC(=O)O)NC(=N)N | C14H14ClN5O3
